US05977413
15.0 g of 2,2-bis(3-nitro-4-hydroxyphenyl)hexafluoropropane and 50.0 cc of methanol were put into a 100-cc four-neck flask equipped with a thermometer, a Dimroth condenser and a stirrer, and stirred therein, to which was added 0.23 g (dry weight) of E196R/W5%Pd (trade name, 5% palladium-carbon catalyst, manufactured by Degussa Japan Co.). This was heated and kept at 60 to 65° C., to which was dropwise added 11.8 g of an aqueous solution of 60% hydrazine monohydrate over a period of 20 minutes. If desired, the reaction system was cooled, as generating heat during the reaction. After the aqueous hydrazine solution was added, the mixture was stirred at 70° C. for 30 minutes, and then gradually cooled to room temperature. After the catalyst was removed through filtration, methanol and water were evaporated out of the reaction mixture to obtain a crude product of 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane. The crude yield was 12.6 g (98%). The purity in liquid chromatography was 98.3% (area %).

reactant | 2,2-bis(3-nitro-4-hydroxyphenyl)hexafluoropropane | 15.0 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C15H8F6N2O6
solvent | methanol | 50.0 cc | CO | CH4O
product | 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane | NC=1C=C(C=CC1O)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)N | C15H12F6N2O2
